US03951640
Preparation of 2-Trifluoromethyl-1,3,4-thiadiazol-5-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (100 ml) was charged into a glass reaction vessel equipped with a mechanical stirrer. A slurry of 2-trifluoromethyl-5-amino-1,3,4-thiadiazole (45 grams) in ethyl acetate (300 ml) was added to the reaction vessel and the resulting mixture was stirred for a period of about 16 hours resulting in the formation of a precipitate. The reaction mixture was then purged with nitrogen gas to remove unreacted phosgene. The purged mixture was filtered to recover 48 grams of a white solid. This solid was recrystallized from dimethyl formamide to yield the desired product 2-trifluoromethyl-1,3,4-thiadiazol-5-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-trifluoromethyl-5-amino-1,3,4-thiadiazole | 45 grams | FC(C=1SC(=NN1)N)(F)F | C3H2F3N3S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-trifluoromethyl-1,3,4-thiadiazol-5-yl isocyanate | FC(C=1SC(=NN1)N=C=O)(F)F | C4F3N3OS
